US08648081B2
Add dropwise a solution of 1-chloro-1-oxopropan-2-yl acetate (600 g, 3.98 mol) in toluene (1200 mL) to a solution of 1-cyclopent-1-enyl-pyrrolidine (546.7 g, 3.98 mol) and triethyl amine (483.9 g, 4.78 mol) in toluene (2400 mL). Reflux the mixture for overnight. Filter the mixture and concentrate the filtration to give crude 1-oxo-1-(2-(pyrrolidin-1-yl)cyclopent-1-enyl)propan-2-yl acetate (952 g), which is used in next step without further purification. 1H NMR (CDCl3, 400 MHz): δ 5.27 (m, 1H), 3.56 (m, 2H), 3.16 (m, 2H), 2.83 (m, 1H), 2.58 (m, 3H), 2.10 (s, 3H), 1.93 (m, 2H), 1.82 (m, 4H), 1.36 (d, J=7.2, 3H).

reactant | 1-chloro-1-oxopropan-2-yl acetate | 3.98 mol, 600 g | C(C)(=O)OC(C(=O)Cl)C | C5H7ClO3
reactant | 1-cyclopent-1-enyl-pyrrolidine | 3.98 mol, 546.7 g | C1(=CCCC1)N1CCCC1 | C9H15N
reactant | triethyl amine | 4.78 mol, 483.9 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 1200 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2400 mL | C1(=CC=CC=C1)C | C7H8
product | 1-oxo-1-(2-(pyrrolidin-1-yl)cyclopent-1-enyl)propan-2-yl acetate | 952 g | C(C)(=O)OC(C(C1=C(CCC1)N1CCCC1)=O)C | C14H21NO3
